* Created by KLayout
*** My special header ***

* cell opamp_r2r_diff_itoumizuki
* pin BPO
* pin INM
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_diff_itoumizuki BPO INM VDD VSS
* device instance $1 r0 *1 146.3,176.1 PMOS
XM$1 \$62 INM \$60 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $5 r0 *1 82.9,176.1 PMOS
XM$5 \$61 \$38 \$60 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $9 r0 *1 146.3,216.1 PMOS
XM$9 \$60 \$59 \$85 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $13 r0 *1 82.9,216.1 PMOS
XM$13 \$60 \$59 \$84 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $17 r0 *1 82.9,256.1 PMOS
XM$17 VDD BPO \$84 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $21 r0 *1 146.3,256.1 PMOS
XM$21 VDD BPO \$85 VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $25 r0 *1 89.9,49.2 NMOS
XM$25 \$2 \$9 VSS VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $27 r0 *1 89.9,89.2 NMOS
XM$27 \$2 \$20 \$12 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $29 r0 *1 153.3,89.2 NMOS
XM$29 \$3 \$20 \$12 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $31 r0 *1 153.3,49.2 NMOS
XM$31 \$3 \$9 VSS VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $33 r0 *1 153.3,129.2 NMOS
XM$33 \$12 INM \$33 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $35 r0 *1 89.9,129.2 NMOS
XM$35 \$12 \$38 \$32 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS opamp_r2r_diff_itoumizuki
